US06399598B1
t-Butyl 1-[(4-Methoxyphenyl)sulfonyl]-5(t-butoxycarbonyl)diazepine-2-carboxylate (7a):
The t-butyl 1,5-diazepine-2-carboxylate (2.0 g, 9.98 mmol) in p-dioxane (100 mL) and water (100 mL) is stirred at room temperature and then aqueous sodium hydroxide (0.399 g, 50% w/w, 9.98 mmol) is slowly added. Next, the di-tert-butyl dicarbonate (2.18 g, 9.98 mmol) is added and the reaction mixture is stirred overnight. To the stirring solution triethyl amine (4.17 mL. 29.9 mmol), 4-dimethylaminopyridine (0.1 equiv) and 4-methoxybenzenesulfonyl chloride (2.47 g. 12.0 mmol) are added, and the reaction is stirred overnight. The resulting mixture is acidified to pH˜1 with 1N HCl, poured into water, and extracted with methylene chloride. The organic extracts are dried (Na2SO4) and concentrated under reduced pressure to an oil. The oil is purified on a silica gel column using 5/1 hexane ethyl acetate as the eluent to afford the desired product as a solid.

reactant | t-butyl 1,5-diazepine-2-carboxylate | 9.98 mmol, 2.0 g | N1C(=CC=NC=C1)C(=O)OC(C)(C)C | C10H14N2O2
reactant | sodium hydroxide | 9.98 mmol, 0.399 g | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 9.98 mmol, 2.18 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethyl amine | 29.9 mmol, 4.17 mL | C(C)N(CC)CC | C6H15N
reactant | 4-methoxybenzenesulfonyl chloride | 12.0 mmol, 2.47 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | HCl | 1N | Cl | ClH
solvent | p-dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | water | 100 mL | O | H2O
catalyst | 4-dimethylaminopyridine | 0.1 equiv | CN(C1=CC=NC=C1)C | C7H10N2
product | t-Butyl 1-[(4-Methoxyphenyl)sulfonyl]-5(t-butoxycarbonyl)diazepine-2-carboxylate | COC1=CC=C(C=C1)S(=O)(=O)N1N(CC=C(C=C1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C22H30N2O7S
